US07205296B2
Analogous to the method described in Ex 1, 2-(chlorocarbonyl)-4,5-difluorophenyl acetate (0.2 g, 0.85 mmol) and methyl-2-fluoro-4-aminobenzoate (0.174 g, 1.1 mmol) were coupled to yield methyl 4-(4,5-difluoro-2-hydroxybenzamido)-2-fluorobenzoate (0.186 g, 64%). RP-HPLC: 2.61 min; ES-MS (M+H)+=326.0. This intermediate was cyclized with formaldehyde, followed by displacement of 7-fluoro with methylamine analogues to method above to give methyl 4-(6-fluoro-7-methylamino-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)benzoate. The methyl ester was hydrolyzed as described in Ex. 55 and then which was coupled with 5-chlorothiophene-2-sulfonamide as described in Ex. 56. The solvent was removed and the product purified on HPLC (C18) to give N-(5-chlorothiophen-2-ylsulfonyl)2-fluoro-4-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e] [1,3] oxazin-3(4H)-yl) benzamide (0.005 g, 15%). RP-HPLC: 2.78 min; ES-MS (M+H)+=514; 1H-NMR (MeOH-d4) δ (ppm): 2.8 (s, 3), 5.6 (s, 2), 6.2 (d, 1), 7.1 (d, 1), 7.3 (d, 1), 7.4 (dd, 1), 7.5 (dd, 1), 7.7 (dd, 1), 7.9 (dd, 1).

reactant | 2-(chlorocarbonyl)-4,5-difluorophenyl acetate | 0.85 mmol, 0.2 g | C(C)(=O)OC1=C(C=C(C(=C1)F)F)C(=O)Cl | C9H5ClF2O3
reactant | methyl-2-fluoro-4-aminobenzoate | 1.1 mmol, 0.174 g | COC(C1=C(C=C(C=C1)N)F)=O | C8H8FNO2
product | methyl 4-(4,5-difluoro-2-hydroxybenzamido)-2-fluorobenzoate | 0.186 g, 64% | FC1=CC(=C(C(=O)NC2=CC(=C(C(=O)OC)C=C2)F)C=C1F)O | C15H10F3NO4
